US04694017
89 Grams of 3-formylmethyl-1-methyloxindole and 54 g of sodium bisulfite was dissolved in a mixed solvent of 75 ml of water with 150 ml of ether, then to the resultant mixture was added dropwise a solution of 28 g of sodium cyanide with 60 ml of water, under stirring at a room temperature. The reaction mixture was stirred for 1 hour, then water was added to the reaction mixture until the crystals formed were dissolved, the whole reaction mixture was further stirred for 1 hour. The crystals formed were collected by filtration, washed with water, dried and recrystallized from benzene to obtain 30 g of 3-(2-cyano2-hydroxyethyl)-1-methyloxindole in the form of white powdery substance. Melting point: 136°-138°C.)

reactant | 3-formylmethyl-1-methyloxindole | C(=O)CC1C(N(C2=CC=CC=C12)C)=O | C11H11NO2
reactant | sodium bisulfite | 54 g | S([O-])(O)=O.[Na+]
reactant | sodium cyanide | 28 g | [C-]#N.[Na+]
solvent | water | 75 ml | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | water | 60 ml | O | H2O
product | 3-(2-cyano2-hydroxyethyl)-1-methyloxindole | 30 g | C(#N)C(CC1C(N(C2=CC=CC=C12)C)=O)O | C12H12N2O2
